US08242174B2
2-(4-Fluoro-3-methyl-phenylamino)-hexanoic acid methyl ester (Intermediate A)
To a solution of 2-bromo-hexanoic acid methyl ester (0.500 g, 2.404 mmol) and 4-fluoro-3-methylaniline (0.301 g, 2.404 mmol) in 15 mL of DMF, was added K2CO3 (1.661 g, 12.020 mmol). After stirring at room temperature under N2 for 88 h, the reaction mixture was diluted with 60 mL of water and extracted with dichloromethane (60 mL×3). The organic extracts were combined dried over anhydrous Na2SO4 and the solvent removed under reduced pressure. Flash chromatography (silica gel) eluting with 0-20% ethyl acetate/hexanes afforded the title compound as brown oil (0.273 g, 45% yield). LC-MS: tR=9.9 min; m/z 254 (M+H)+.

reactant | 2-bromo-hexanoic acid methyl ester | 2.404 mmol, 0.500 g | COC(C(CCCC)Br)=O | C7H13BrO2
reactant | 4-fluoro-3-methylaniline | 2.404 mmol, 0.301 g | FC1=C(C=C(N)C=C1)C | C7H8FN
reactant | K2CO3 | 12.020 mmol, 1.661 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | 2-(4-Fluoro-3-methyl-phenylamino)-hexanoic acid methyl ester | 0.273 g, 45% yield | COC(C(CCCC)NC1=CC(=C(C=C1)F)C)=O | C14H20FNO2
